US07368578B2
To a mixture of ethyl 4-hydroxy-3-methoxybenzoate (15.00 g), potassium carbonate (11.63 g) and N,N-dimethylformamide (2.00 mL) was added 4-chloromethyl-5-methyl-2-phenyl-1,3-oxazole (17.45 g) with stirring, and the mixture was stirred overnight at 80° C. Water was poured into the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoate from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave a pale-brown solid (25.45 g, yield 91%). melting point: 103-104° C.

reactant | ethyl 4-hydroxy-3-methoxybenzoate | 15.00 g | OC1=C(C=C(C(=O)OCC)C=C1)OC | C10H12O4
reactant | potassium carbonate | 11.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 2.00 mL | CN(C=O)C | C3H7NO
reactant | 4-chloromethyl-5-methyl-2-phenyl-1,3-oxazole | 17.45 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
solvent | Water | O | H2O
product | ethyl 3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoate | COC=1C=C(C(=O)OCC)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H21NO5
